US07465808B2
To a solution of 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-m-tolyl-propionic acid ethyl ester (Method 2, product from alkylation step before hydrolysis) (50 mg, 0.10 mmol) in THF (1.0 mL) at 0° C. was added a 1.0 M solution of NaHMDS (0.15 mL, 0.15 mmol). The solution was stirred at 0° C. for 2 h, then iodomethane (41 mg, 0.29 mmol) was added neat. After stirring for 1 h the reaction was quenched with saturated ammonium chloride (50 mL), and the reaction mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (1×50 mL) and dried with Na2SO4, and the solvent was removed under reduced pressure. The crude material was purified by flash chromatography (EtOAc/hexanes) giving 31 mg (60%) of 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-methyl-2-m-tolyl-propionic acid ethyl ester. HPLC: Rt=3.79 (Method B). MS (ES+): mass calculated for C29H28Cl2N2O3, 522.15; m/z found 523.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 7.58 (d, J=8.4 Hz, 1H), 7.42 (d, J=2.0 Hz, 1H), 7.25 (t, J=7.6 Hz, 1H), 77.17-7.14 (m, 4H), 7.08 (d, J=7.4 Hz, 1H), 7.05 (dd, J=2.0 Hz, 8.3 Hz, 1H), 6.97 (d, J=8.9 Hz, 2H), 6.22 (s, 1H), 4.10 (m, 2H), 3.77 (s, 3H), 3.40 (d, J=13.9 Hz, 1H), 3.17 (d, J=13.9 Hz, 1H), 2.13 (s, 3H), 1.49 (s, 3H), 1.12 (t, J=7.1 Hz, 3H).

reactant | 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-m-tolyl-propionic acid ethyl ester | C(C)OC(C(CC1=NN(C(=C1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=C(C=C1)OC)C=1C=C(C=CC1)C)=O | C28H26Cl2N2O3
reactant | NaHMDS | 0.15 mmol, 0.15 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | iodomethane | 0.29 mmol, 41 mg | IC | CH3I
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-methyl-2-m-tolyl-propionic acid ethyl ester | 31 mg, 60% | C(C)OC(C(CC1=NN(C(=C1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=C(C=C1)OC)(C=1C=C(C=CC1)C)C)=O | C29H28Cl2N2O3
